US07326732B2
(ii) 5-(4-Fluoro-phenyl)-furan-2-carboxylic acid (76)
4-Fluoro-phenylboronic acid (611 mg, 4.4 mmol) was coupled to 5-bromo-2-furoic acid (1 g, 5.2 mmol) using Method F to give the title compound.

reactant | 4-Fluoro-phenylboronic acid | 4.4 mmol, 611 mg | FC1=CC=C(C=C1)B(O)O | C6H6BFO2
reactant | 5-bromo-2-furoic acid | 5.2 mmol, 1 g | BrC1=CC=C(O1)C(=O)O | C5H3BrO3
product | 5-(4-Fluoro-phenyl)-furan-2-carboxylic acid | FC1=CC=C(C=C1)C1=CC=C(O1)C(=O)O | C11H7FO3
